US04093724
A mixture of 7.04 g of methyl 3-(8-trifluoromethyl-4-quinolylamino)-2-thiophene-carboxylate, 5.5 g of 4-(4-chlorophenyl)-1-piperazine ethanol and 50 ml of anhydrous toluene was refluxed for an hour while passing condensed toluene through a column filled with siliporite and after cooling the mixture to 60° C, 150 ml of sodium hydride were added. The mixture was refluxed with stirring for 16 hours and the toluene was distilled. The residue was extracted with methylene chloride, was washed and dried. The product was crystallized from 95% ethanol, iced and vacuum filtered. The precipitate was washed with ethanol and dried to obtain 8.6 g of 2-[4-(4-chlorophenyl)-1-piperazinyl]-ethyl 3-(8-trifluoromethyl 4-quinolylamino)-2-thiophene-carboxylate melting at 155° C.

reactant | methyl 3-(8-trifluoromethyl-4-quinolylamino)-2-thiophene-carboxylate | 7.04 g | FC(C=1C=CC=C2C(=CC=NC12)NC1=C(SC=C1)C(=O)OC)(F)F | C16H11F3N2O2S
reactant | 4-(4-chlorophenyl)-1-piperazine ethanol | 5.5 g | ClC1=CC=C(C=C1)N1CCN(CC1)CCO | C12H17ClN2O
reactant | sodium hydride | 150 ml | [H-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(4-chlorophenyl)-1-piperazinyl]-ethyl 3-(8-trifluoromethyl 4-quinolylamino)-2-thiophene-carboxylate | 8.6 g | FC(C=1C=CC=C2C(=CC=NC12)NC1=C(SC=C1)C(=O)OCCN1CCN(CC1)C1=CC=C(C=C1)Cl)(F)F | C27H24ClF3N4O2S
